US09334278B2
To a mixture of 2-bromo-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (2 g, 5.37 mmol), 2-amino-2-methylpropan-1-ol (575 mg, 6.45 mmol) and HATU (2.25 g, 5.91 mmol) was added DIPEA (2.08 g, 2.81 mL, 16.1 mmol) and DMF (18 mL). The mixture was stirred at room temperature for 16 h then was diluted with EtOAc and 10% citric acid. The phases were separated and the organic phase was then washed successively with 10% citric acid, NaHCO3 and brine. The organic phase was dried (MgSO4), filtered and purified by chromatography (silica, 20-60% ethyl acetate in hexanes) to give 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (1.95 g, 4.4 mmol, 82%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm: 8.47 (s, 1H), 8.34 (s, 1H), 8.13 (s, 1H), 5.69 (s, 2H), 3.78 (s, 2H), 3.57 (t, J=8.4 Hz, 3H), 1.52 (s, 60.96 (t, J=8.4 Hz, 3H), 0.00 (s, 9H).

reactant | 2-bromo-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 5.37 mmol, 2 g | BrC=1N=C2C(=NC1)N(C=C2C(=O)O)COCC[Si](C)(C)C | C13H18BrN3O3Si
reactant | 2-amino-2-methylpropan-1-ol | 6.45 mmol, 575 mg | NC(CO)(C)C | C4H11NO
reactant | HATU | 5.91 mmol, 2.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 16.1 mmol, 2.81 mL, 2.08 g | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 2-bromo-N-(1-hydroxy-2-methylpropan-2-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 4.4 mmol, 1.95 g, 82% | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(CO)(C)C)COCC[Si](C)(C)C | C17H27BrN4O3Si
